US08008307B2
Step b: N-[(3aS,4R,6S,6aR)-6-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-Yl]-N′-[(1S)-2,3-dihydro-1H-i nden-1-yl]-6-methyl-1,3,5-triazine-2,4-diamine
A mixture of (3aS,4R,6R,6aR)-6-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-amine (141.8 mg, 0.0004703 mol), 4-chloro-N-[(1S)-2,3-dihydro-1H-inden-1-yl]-6-methyl-1,3,5-triazin-2-amine (127.1 mg, 0.0004876 mol) and potassium carbonate (0.130 g, 0.000940 mol) in 1,4-dioxane (0.77 mL) was subjected to microwave irradiation (300 watts, 160° C.) for 30 minutes. The mixture was filtered with CH2Cl2 and concentrated. The residue was purified by flash chromatography (10 to 100% EtOAc/hexanes) to obtain 60 mg (24%) of the title compound. LC/MS: Rt=2.03 min, ES+ 279 (FA standard).

reactant | (3aS,4R,6R,6aR)-6-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-amine | 0.0004703 mol, 141.8 mg | [Si](C)(C)(C(C)(C)C)OC[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N | C15H31NO3Si
reactant | 4-chloro-N-[(1S)-2,3-dihydro-1H-inden-1-yl]-6-methyl-1,3,5-triazin-2-amine | 0.0004876 mol, 127.1 mg | ClC1=NC(=NC(=N1)C)N[C@H]1CCC2=CC=CC=C12 | C13H13ClN4
reactant | potassium carbonate | 0.000940 mol, 0.130 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 0.77 mL | O1CCOCC1 | C4H8O2
product | N-[(3aS,4R,6S,6aR)-6-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-Yl]-N′-[(1S)-2,3-dihydro-1H-i nden-1-yl]-6-methyl-1,3,5-triazine-2,4-diamine | 60 mg, 24% | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)NC2=NC(=NC(=N2)N[C@H]2CCC1=CC=CC=C21)C | C28H43N5O3Si
